US08349880B2
Step F (2): 10% Palladium on carbon (1.2 g) was added under an atmosphere of nitrogen to a chilled (ice-water bath) solution of 1-(2-methoxy-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole (3.7 g, 12.7 mmol) dissolved in methanol (250 mL). The flask was repeated evacuated and flushed with hydrogen gas (double balloon). The resulting mixture was allowed to warm to rt and left to stir for 18 h under the hydrogen atmosphere. Purged with nitrogen gas. Filtered the crude reaction mixture through a short diatomaceous earth (Celite®) plug. Rinsed reaction vessel and plug with methanol. Concentrated filtrate in vacuo. Dried residue on high vacuum overnight to afford 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline (2.44 g, 94% yield) as a reddish solid. LC-MS (M+H)+ 205.2. 1H NMR (500 MHz, chloroform-d) δ ppm 8.35 (s, 1 H) 7.36 (d, J=8.55 Hz, 1 H) 6.29-6.34 (m, 2 H) 3.80 (s, 3 H) 2.46 (s, 3 H).

reactant | 1-(2-methoxy-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | 12.7 mmol, 3.7 g | COC1=C(C=CC(=C1)[N+](=O)[O-])N1N=C(N=C1)C | C10H10N4O3
catalyst | Palladium on carbon | 1.2 g | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline | 2.44 g, 94% yield | COC=1C=C(N)C=CC1N1N=C(N=C1)C | C10H12N4O
